US06350907B1
A mixture of palladium acetate (20 mg, 0.08 mmol) and tri-(2-methylphenyl)phosphine (50 mg, 0.16 mmol) was added to a stirred solution of tert-butyl (3R)-3-({[(1S)-2,2-dimethyl-1-({[(1R)-1-phenylethyl]amino}carbonyl)propyl]amino}carbonyl)hex-5-enoate (Preparation 2)(578 mg, 1.23 mmol), 1-iodo-3-methyl-4-phenoxybenzene (Preparation 11)(384 mg, 1.35 mmol), and triethylamine (300 μL, 2.14 mmol) in anhydrous acetonitrile (3 mL) under nitrogen. The mixture was purged with nitrogen, then heated at reflux for 24 h. After being cooled, the mixture was poured into ethyl acetate (100 mL) and washed with saturated aqueous sodium chloride (2×50 mL), dried (MgSO4), and concentrated under reduced pressure. The residue was purified by flash chromatography (eluting with hexane:ethyl acetate=9:1 and then 4:1) to give mainly tert-butyl (3R,5E)-3-({[(1S)-2,2-dimethyl-1-({ [(1R)-1-phenylethyl]amino}carbonyl)propyl]amino}carbonyl)-6-(3-methyl-4-phenoxyphenyl)hex-5-enoate as an orange foam (615 mg). 1H nmr suggested that two alkene isomers, the (5Z) and (4E), together with the alkene starting material (10%) were also present. The mixture of alkenes was taken onto the next step (see b, below).

reactant | tri-(2-methylphenyl)phosphine | 0.16 mmol, 50 mg | CC1=C(C=CC=C1)P(C1=C(C=CC=C1)C)C1=C(C=CC=C1)C | C21H21P
reactant | tert-butyl (3R)-3-({[(1S)-2,2-dimethyl-1-({[(1R)-1-phenylethyl]amino}carbonyl)propyl]amino}carbonyl)hex-5-enoate | 1.23 mmol, 578 mg | CC([C@@H](C(=O)N[C@H](C)C1=CC=CC=C1)NC(=O)[C@@H](CC(=O)OC(C)(C)C)CC=C)(C)C | C25H38N2O4
reactant | 1-iodo-3-methyl-4-phenoxybenzene | 1.35 mmol, 384 mg | IC1=CC(=C(C=C1)OC1=CC=CC=C1)C | C13H11IO
reactant | triethylamine | 2.14 mmol, 300 μL | C(C)N(CC)CC | C6H15N
solvent | acetonitrile | 3 mL | C(C)#N | C2H3N
catalyst | palladium acetate | 0.08 mmol, 20 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | tert-butyl (3R,5E)-3-({[(1S)-2,2-dimethyl-1-({ [(1R)-1-phenylethyl]amino}carbonyl)propyl]amino}carbonyl)-6-(3-methyl-4-phenoxyphenyl)hex-5-enoate | 615 mg | CC([C@@H](C(=O)N[C@H](C)C1=CC=CC=C1)NC(=O)[C@@H](CC(=O)OC(C)(C)C)C\C=C\C1=CC(=C(C=C1)OC1=CC=CC=C1)C)(C)C | C38H48N2O5
